US09102671B2
To a solution 5-((2R,4R)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide (I-33) (150 mg, 0.26 mmol) in DCM (anhyd, 2 mL) at 0° C. was added triethylamine (0.070 mL, 0.5 mmol) followed by dropwise addition of methanesulfonyl chloride (28 μL, 0.36 mmol). After stirring 2 hours at room temperature the reaction mixture was concentrated under reduced pressure. The resulting solid was taken up in EtOAc and washed twice with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford (3R,5R)-1-(3-(bis(4-methoxybenzyl)carbamoyl)pyrazolo[1,5-a]pyridin-5-yl)-5-(3-fluorophenyl)pyrrolidin-3-yl methanesulfonate (I-34), which was used without further purification. MS m/z 659.2 (M+1)+.

reactant | 5-((2R,4R)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide | 0.26 mmol, 150 mg | FC=1C=C(C=CC1)[C@@H]1N(C[C@@H](C1)O)C1=CC=2N(C=C1)N=CC2C(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C34H33FN4O4
reactant | triethylamine | 0.5 mmol, 0.070 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.36 mmol, 28 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (3R,5R)-1-(3-(bis(4-methoxybenzyl)carbamoyl)pyrazolo[1,5-a]pyridin-5-yl)-5-(3-fluorophenyl)pyrrolidin-3-yl methanesulfonate | CS(=O)(=O)O[C@H]1CN([C@H](C1)C1=CC(=CC=C1)F)C1=CC=2N(C=C1)N=CC2C(N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)=O | C35H35FN4O6S
